2195-04-20 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2195-4-19**] 12:30 PM
 EKG - At [**2195-4-19**] 03:00 PM
   - no overnight events
   - ERCP stent no sphictoetomy, 3 stones seen
   - confirmed med list
   S: pt says
vomit
 2x overnight
 nurse observed this though and
   referred to her spitting up phlegm
   Allergies:
   Sulfasalazine
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2195-4-20**] 05:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-4-19**] 10:08 AM
   Metoprolol - [**2195-4-20**] 04:18 AM
   Hydralazine - [**2195-4-20**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-20**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 74 (59 - 87) bpm
   BP: 151/46(73) {118/46(73) - 206/74(105)} mmHg
   RR: 18 (15 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,757 mL
                                                                    184 mL
   PO:
             TF:
   IVF:
                                                                  1,957 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    440 mL
   Urine:
                                                                    540 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                   -256 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   CV: RRR
   Chest: CTAB
   Abd: +BS, NT/ND, soft
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   [**Year (4 digits) 358**] / Radiology
   194 K/uL
   11.7 g/dL
   72 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   19 mg/dL
   103 mEq/L
   135 mEq/L
   35.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2195-4-19**]  03:20 PM
                             [**2195-4-20**]  03:44 AM
   WBC
   9.8
   Hct
   35.4
   Plt
   194
   Cr
   1.4
   1.3
   TropT
   <0.01
   Glucose
   85
   72
   Other [**Year (4 digits) **]: PT / PTT / INR:15.8/30.6/1.4, CK / CKMB /
   Troponin-T:13/3/<0.01, ALT / AST:231/239, Alk Phos / T Bili:248/3.2,
   Amylase / Lipase:118/79, Differential-Neuts:81.8 %, Lymph:11.1 %,
   Mono:6.2 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:2.6 mg/dL
   [**Age over 90 **] year old woman with past CABG now here w hx of abd pain, CBD
   dilatation seen at OSH. Now s/p ERCP and sphincterotomy w stent.
   #  CBD DILATATION AND LIVER ENZYME ABNORMALITIES
   Consistent with cholelithiasis/choledocholithiasis; [**Age over 90 **] consistent
   with ductal obstruction with elevated Alk phos, elevated ALT/AST, high
   bilirubin. Now s/p ERCP, sphincterotomy, stent. Formal report pending.
   - follow liver [**Age over 90 **] post-procedure
   - chemistries this PM
   .
   #  CAD
   Non-diagnostic ST changes seen on EKG in setting of hypertension and
   acute medical illness. Diffuse non-diagnostic abnormalities probably
   associated with demand and underlying disease but baseline risk is
   significant given past CABG, advanced age, HTN, hyperlipidemia.
   - cycling cardiac enzymes
   - change to PO metop today
   - aspirin; holding off on high-dose statin given earlier elevated liver
   [**Last Name (LF) **], [**First Name3 (LF) 124**] reconsider this evening if cardiac enzymes coming back +
   - pt needs baseline Echo, and baseline CXR
   #  Sputum
   Pt not febrile, and lung exam clear
 not c/w pneumonia.
   - f/u CXR
   - will not start abx currently
   .
   #  HTN
   Elevated systolic pressure, high pulse pressure, no physical exam
   findings clearly assoc w AR, no known hx of valvular dz per patient and
   patient
s daughter. Calcified [**Name2 (NI) 6753**] aorta seen on OSH CT.
   - increasing hydralazine for afterload reduction
   - po Metop, and PO hydral for breakthrouh
   - dynamic ST changes, see above; following EKG and cardiac enzyme
   - move to PO meds gradually after discussion w surgery
   - ACEi at home; would not restart in this setting given uncertain Cr
   compared to baseline
   #  RENAL FAILURE
   Apparently a chronic issue, not clear what her baseline is, may be
   close to baseline at this point. Will follow by [**Name2 (NI) **], no intervention
   for now.
   #  HYPOTHYROIDISM
   Continue levoxyl.
   #   DEPRESSION
   Get home dose of zoloft from daughter, will restart when dose
   established.
   #   BREAST CANCER
   Apparently was on tamoxifen (daughter unsure of med) for five years
   until a few months ago; not now. No evident recurrence. No need to
   pursue this in this setting; mets unlikely to be cause of current
   problems given CT from OSH not showing lesions.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-4-19**] 09:14 AM
   18 Gauge - [**2195-4-19**] 09:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code (discussed with patient
s daughter ; will need
   to revisit with patient and patient
s daughter)
   Disposition: to floor today

2195-04-20 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ERCP - At [**2195-4-19**] 12:30 PM
 EKG - At [**2195-4-19**] 03:00 PM
   - no overnight events
   - ERCP stent no sphictoetomy, 3 stones seen
   - confirmed med list
   Allergies:
   Sulfasalazine
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2195-4-20**] 05:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2195-4-19**] 10:08 AM
   Metoprolol - [**2195-4-20**] 04:18 AM
   Hydralazine - [**2195-4-20**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-4-20**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 74 (59 - 87) bpm
   BP: 151/46(73) {118/46(73) - 206/74(105)} mmHg
   RR: 18 (15 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,757 mL
                                                                    184 mL
   PO:
             TF:
   IVF:
                                                                  1,957 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    440 mL
   Urine:
                                                                    540 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                   -256 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   [**Year (4 digits) 358**] / Radiology
   194 K/uL
   11.7 g/dL
   72 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   19 mg/dL
   103 mEq/L
   135 mEq/L
   35.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2195-4-19**]  03:20 PM
                             [**2195-4-20**]  03:44 AM
   WBC
   9.8
   Hct
   35.4
   Plt
   194
   Cr
   1.4
   1.3
   TropT
   <0.01
   Glucose
   85
   72
   Other [**Year (4 digits) **]: PT / PTT / INR:15.8/30.6/1.4, CK / CKMB /
   Troponin-T:13/3/<0.01, ALT / AST:231/239, Alk Phos / T Bili:248/3.2,
   Amylase / Lipase:118/79, Differential-Neuts:81.8 %, Lymph:11.1 %,
   Mono:6.2 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:2.6 mg/dL
   [**Age over 90 **] year old woman with past CABG now here w hx of abd pain, CBD
   dilatation seen at OSH. Now s/p ERCP and sphincterotomy w stent.
   CBD DILATATION AND LIVER ENZYME ABNORMALITIES
   Consistent with cholelithiasis/choledocholithiasis; [**Age over 90 **] consistent
   with ductal obstruction with elevated Alk phos, elevated ALT/AST, high
   bilirubin. Now s/p ERCP, sphincterotomy, stent. Formal report pending.
   - follow liver [**Age over 90 **] post-procedure
   - chemistries this PM
   .
   ST CHANGES
   Non-diagnostic ST changes seen on EKG in setting of hypertension and
   acute medical illness. Diffuse non-diagnostic abnormalities probably
   associated with demand and underlying disease but baseline risk is
   significant given past CABG, advanced age, HTN, hyperlipidemia.
   - cycling cardiac enzymes
   - IV metoprolol while NPO
   - aspirin; holding off on high-dose statin given earlier elevated liver
   [**Last Name (LF) **], [**First Name3 (LF) 124**] reconsider this evening if cardiac enzymes coming back +
   .
   HTN
   Elevated systolic pressure, high pulse pressure, no physical exam
   findings clearly assoc w AR, no known hx of valvular dz per patient and
   patient
s daughter. Calcified [**Name2 (NI) 6753**] aorta seen on OSH CT.
   - increasing hydralazine for afterload reduction
   - giving metoprolol at IV dose likely higher than home equivalent
   (still working on confirming home doses)
   - dynamic ST changes, see above; following EKG and cardiac enzyme
   - move to PO meds gradually after discussion w surgery
   - ACEi at home; would not restart in this setting given uncertain Cr
   compared to baseline
   RENAL FAILURE
   Apparently a chronic issue, not clear what her baseline is, may be
   close to baseline at this point. Will follow by [**Name2 (NI) **], no intervention
   for now.
   HYPOTHYROIDISM
   Continue levoxyl.
   DEPRESSION
   Get home dose of zoloft from daughter, will restart when dose
   established.
   BREAST CANCER
   Apparently was on tamoxifen (daughter unsure of med) for five years
   until a few months ago; not now. No evident recurrence. No need to
   pursue this in this setting; mets unlikely to be cause of current
   problems given CT from OSH not showing lesions.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-4-19**] 09:14 AM
   18 Gauge - [**2195-4-19**] 09:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code (discussed with patient
s daughter ; will need
   to revisit with patient and patient
s daughter)
   Disposition: ICU